US07902205B2
Step F: 8-[2-(3-benzyl-1,2,4-oxadiazol-5-yl)ethyl]-2-bromo-4-butyl-1,4-dihydro-5H-[1,2,4]triazolo[5,1-i]purin-5-one
To a mixture of 8-[2-(3-benzyl-1,2,4-oxadiazol-5-yl)ethyl]-4-butyl-1,4-dihydro-5H-[1,2,4]triazolo[5,1-i]purin-5-one (40 mg, 0.096 mmol) in THF (5 mL) was added N-bromosuccinimide (19 mg, 0.11 mmol). After stirring at room temperature overnight, the reaction was quenched with phenol. The reaction mixture was concentrated, and the residue was purified by preparative LCMS (method A) to give desired product as white powder. LCMS calculated for C21H22BrN8O2(M+H): 497.1. found: 497.0, 499.0.

reactant | 8-[2-(3-benzyl-1,2,4-oxadiazol-5-yl)ethyl]-4-butyl-1,4-dihydro-5H-[1,2,4]triazolo[5,1-i]purin-5-one | 0.096 mmol, 40 mg | C(C1=CC=CC=C1)C1=NOC(=N1)CCC1=NN2C(N(C=3N=CNC3C2=N1)CCCC)=O | C21H22N8O2
reactant | N-bromosuccinimide | 0.11 mmol, 19 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 8-[2-(3-benzyl-1,2,4-oxadiazol-5-yl)ethyl]-2-bromo-4-butyl-1,4-dihydro-5H-[1,2,4]triazolo[5,1-i]purin-5-one | C(C1=CC=CC=C1)C1=NOC(=N1)CCC1=NN2C(N(C=3N=C(NC3C2=N1)Br)CCCC)=O | C21H21BrN8O2
